US09216980B2
Step 6: 5-Ethyl-3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile
A mixture of 3-bromo-5-ethyl-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (48 mg, 0.16 mmol), 4-piperidin-1-ylmethyl-phenyl boronic acid (56 mg, 0.26 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (12 mg, 0.016 mmol) in 2N aqueous sodium carbonate (0.5 mL) and acetonitrile (0.63 mL) was heated under microwave irradiation at 140° C. for 35 minutes. The reaction mixture was allowed to cool to ambient temperature, diluted with water (5 mL) and extracted with ethyl acetate (3×5 mL). The combined organic layer was dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The resultant residue was purified by flash chromatography (silica, 2 g column, ISCO, 0-5% methanol in DCM) and trituration with diethyl ether (2×1 mL) to afford the title compound as a beige solid (29 mg, 46%). 1H NMR (DMSO-D6, 400 MHz): 12.93 (br. s, 1H), 8.99 (d, J=2.2 Hz, 1H), 8.91 (s, 1H), 8.79 (d, J=2.2 Hz, 1H), 7.79 (d, J=8.0 Hz, 2H), 7.46 (d, J=8.0 Hz, 2H), 3.53-3.43 (m, 4H), 2.42-2.33 (m, 4H), 1.55-1.47 (m, 4H), 1.46-1.37 (m, 5H). LCMS (Method A): RT=6.23 min, M+H+=396.

reactant | 3-bromo-5-ethyl-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 0.16 mmol, 48 mg | BrC1=CC2=C(NC3=C2C(=C(N=C3)C#N)CC)N=C1 | C13H9BrN4
reactant | 4-piperidin-1-ylmethyl-phenyl boronic acid | 0.26 mmol, 56 mg | N1(CCCCC1)CC1=CC=C(C=C1)B(O)O | C12H18BNO2
solvent | sodium carbonate | 2N, 0.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 0.63 mL | C(C)#N | C2H3N
solvent | water | 5 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.016 mmol, 12 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-Ethyl-3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 29 mg, 46% | C(C)C1=C(N=CC2=C1C1=C(N2)N=CC(=C1)C1=CC=C(C=C1)CN1CCCCC1)C#N | C25H25N5
